US04775223
0.01 mol of 4'-hydroxybiphenylcarboxylic acid and 0.02 mol of potassium hydroxide were dissolved in a mixture of 300 ml of alcohol and 30 ml of water. Then, 1.2 ml of n-octyl bromide was added thereto, and the resultant mixture was refluxed for 12 hours. A 10% potassium hydroxide solution containing 1.12 g of KOH was added and the resultant mixture was refluxed for 2 hours to cause hydrolysis. The product was recrystallized in a mixture of ethanol and glacial acetic acid to obtain 4'-n-octyloxybiphenyl carboxylic acid.

reactant | 4'-hydroxybiphenylcarboxylic acid | 0.01 mol | OC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C13H10O3
reactant | potassium hydroxide | 0.02 mol | [OH-].[K+]
reactant | n-octyl bromide | 1.2 ml | C(CCCCCCC)Br | C8H17Br
reactant | KOH | 1.12 g | [OH-].[K+]
solvent | water | 30 ml | O | H2O
product | 4'-n-octyloxybiphenyl carboxylic acid | C(CCCCCCC)OC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C21H26O3
